US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-L-ornithineamide Hydrochloride
(E)-3-(3Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-L-ornithineamide (730 mg, 1.11 mmols) was dissolved in 5 ml of dichloromethane, and 5 ml of a solution of 4-M hydrochloric acid and dioxane were added thereto. The mixture was reacted at room temperature for 1 hour. One-hundred milliliters of diethyl ether were added thereto, and the resulting mixture was filtered. The thus-obtained powder was recrystallized from a mixture of methanol and ethyl acetate at a ratio by volume of 1:1 to produce 286 mg (0.542 mmols) of the final compound in a yield of 48%.

reactant | (E)-3-(3Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-L-ornithineamide | 1.11 mmols, 730 mg | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)N[C@@H](CCCN)C(=O)N
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | diethyl ether | One-hundred milliliters | C(C)OCC | C4H10O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile L-ornithineamide Hydrochloride | 0.542 mmols, 286 mg, yield of 48% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.Cl.N[C@@H](CCCN)C(=O)N | InChI=1S/C19H20N2O4.C5H13N3O.ClH/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;6-3-1-2-4(7)5(8)9;/h5-10H,21H2,1-4H3;4H,1-3,6-7H2,(H2,8,9);1H/b14-7-;;/t;4-;/m.0./s1
